US04868331
5-Amino-1-methoxy-5,6,7,8-tetrahydro-naphthalene hydrochloride
50 mmol of 5-methoxy-1-tetralone, 0.5 mol of NH4OAc and 35 mmol of NaBH3CN are stirred in 150 ml of absolute MeOH at room temperature for 24 hours. The mixture is acidified to pH 2 with concentrated HCl and evaporated, the residue is taken up in 50 ml of H2O and the mixture is extracted by shaking 2-3×with ether. Any precipitates which arise are filtered off and combined with the H2O phase. The H2O phase is brought to pH 10 with solid KOH, saturated with NaCl and extracted by shaking 3×with ethyl acetate. After drying with Na2SO4, the organic phase is evaporated, the residue is dissolved in ether and the product is precipitated as the hydrochloride by passing the HCl. Yield: 79%; melting point: 250° C.

reactant | 5-methoxy-1-tetralone | 50 mmol | COC1=C2CCCC(C2=CC=C1)=O | C11H12O2
reactant | NaBH3CN | 35 mmol | [BH3-]C#N.[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 150 ml | CO | CH4O
product | 5-Amino-1-methoxy-5,6,7,8-tetrahydro-naphthalene hydrochloride | Yield: 79% | Cl.NC1C=2C=CC=C(C2CCC1)OC | InChI=1S/C11H15NO.ClH/c1-13-11-7-3-4-8-9(11)5-2-6-10(8)12;/h3-4,7,10H,2,5-6,12H2,1H3;1H
